US04247551
N-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-piperidino-3-pyridazineamine
A mixture of 7.4 g (28 m moles) of 3-hydrazino-6-piperidino-pyridazine, 2.3 g of sodium acetate and 3.7 g 2,5-hexanedione is heated for two hours at 65° C. The solvent is evaporated off under vacuum and the solid residue is dissolved in water and neutralized with sodium hydroxide. The product is purified by chromatography through a silicagel column using as the eluent a mixture methanol-chloroform 2.5:97.5. The solid recovered by evaporation of the eluate is crystallized from ethyl acetate yielding 2 g (27%) of the product of the title which melts at 185°-187° C.

reactant | 3-hydrazino-6-piperidino-pyridazine | 7.4 g | N(N)C=1N=NC(=CC1)N1CCCCC1 | C9H15N5
reactant | sodium acetate | 2.3 g | C(C)(=O)[O-].[Na+]
reactant | 2,5-hexanedione | 3.7 g | CC(CCC(C)=O)=O | C6H10O2
product | N-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-piperidino-3-pyridazineamine | CC=1N(C(=CC1)C)NC=1N=NC(=CC1)N1CCCCC1 | C15H21N5
